US04864028
2,4,7-Trifluoro-5-nitrofluorene was oxidized to the fluorenone using sodium dichromate in acetic acid and then reduced to 5-amino-2,4,7-trifluorofluorenone using tin(II)chloride in a mixturre of ethanol and concentrated hydrochloric acid. The amine was converted to the 5-diazonium tetrafluoroborate salt by treatment with sodium nitrite in a mixture of tetrahydrofuran and aqueous fluoboric acid. The material was allowed to react with potassium ethyl xanthate in a hot mixture of water and toluene to provide ethyl 2,4,7-trifluoro-9-oxofluoren-5-yl xanthate which was then hydrolyzed using ethanolic sodium hydroxide and S-methylated with methyl iodide to give 2,4,7-tri-fluoro-5-methylthiofluorenone. Hydantoin formation was accomplished by heating an ethanol solution of the ketone, potassium cyanide, ammonium carbonate at 115° C. for 15 hours.

reactant | 2,4,7-Trifluoro-5-nitrofluorene | FC1=CC=2CC3=CC(=CC(=C3C2C(=C1)F)[N+](=O)[O-])F | C13H6F3NO2
reactant | fluorenone | C1(C=CC=C2C3=CC=CC=C3C=C12)=O | C13H8O
reactant | sodium dichromate | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | 5-amino-2,4,7-trifluorofluorenone | NC1=C2C3=C(C=C(C(C3=CC2=CC(=C1)F)=O)F)F | C13H6F3NO
reactant | tin(II)chloride | [Sn](Cl)Cl
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | fluoboric acid | [H+].[B-](F)(F)(F)F
reactant | potassium ethyl xanthate | O(C(=S)[S-])CC.[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2,4,7-trifluoro-9-oxofluoren-5-yl xanthate | O(C(=S)SC1=C2C=3C(=CC(=CC3C(C2=CC(=C1)F)=O)F)F)CC | C16H9F3O2S2
